US06458935B1
A solution of 3-bromo-5-nitrophenol, as described above in Step C, (1.04 g, 4.77 mmol) in dimethylformamide (30 mL) was cooled to 0° C. and treated with cesium carbonate (7.8 g, 23.8 mmol) giving an opaque red mixture. This mixture was treated with 1-bromo-2-fluoroethane (0.71 mL, 9.54 mmol) and the reaction was stirred overnight as the ice bath warmed to room temperature. The reaction was diluted with ethyl acetate/brine/aqueous saturated NH4Cl, the layers were separated and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give an orange brown oil. This material was purified by radial, thin layer chromatography (hexane to 10:1 hexane: ethyl acetate) to give 3-bromo-5-fluoroethoxynitrobenzene as a clear yellow liquid.

reactant | 3-bromo-5-nitrophenol | BrC=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | cesium carbonate | 23.8 mmol, 7.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-fluoroethane | 9.54 mmol, 0.71 mL | BrCCF | C2H4BrF
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate brine | C(C)(=O)OCC.[Cl-].[Na+].O
product | 3-bromo-5-fluoroethoxynitrobenzene | BrC=1C=C(C=C(C1)OCCF)[N+](=O)[O-] | C8H7BrFNO3
